US08110579B2
According to the method described in example 1.8, starting from 400 mg (0.85 mmol) of 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylic acid and 218 mg (1.19 mmol) of 9-aminobicyclo[3.3.1]nonane-9-carboxylic acid and after reverse-phase purification and lyophilization, we obtain 220 mg of 9-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridin-2-yl]carbonyl}amino)bicyclo[3.3.1]nonane-9-carboxylic acid hydrochloride in the form of white powder.

reactant | 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylic acid | 0.85 mmol, 400 mg | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)O)C1=C(C=CC=C1OC)OC)OCCCN(C)C | C25H27ClN2O5
reactant | 9-aminobicyclo[3.3.1]nonane-9-carboxylic acid | 1.19 mmol, 218 mg | NC1(C2CCCC1CCC2)C(=O)O | C10H17NO2
product | 9-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridin-2-yl]carbonyl}amino)bicyclo[3.3.1]nonane-9-carboxylic acid hydrochloride | 220 mg, Yield=41% | Cl.ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)NC1(C2CCCC1CCC2)C(=O)O)C2=C(C=CC=C2OC)OC)OCCCN(C)C | InChI=1S/C35H42ClN3O6.ClH/c1-39(2)19-8-20-45-30-21-22(15-17-26(30)36)32-25(31-28(43-3)13-7-14-29(31)44-4)16-18-27(37-32)33(40)38-35(34(41)42)23-9-5-10-24(35)12-6-11-23;/h7,13-18,21,23-24H,5-6,8-12,19-20H2,1-4H3,(H,38,40)(H,41,42);1H
